US04684640
4-Nitrobenzyl 7-oxo-3-phenoxy-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
A stirred solution of 97 mg of 4-nitrobenzyl 2-(4-allylsulphinylazetidin-2-on-1-yl)-3-phenoxy-3-thioxopropionate and 52 mg of triphenylphosphine in 2 ml of dry dioxan was heated under an argon atmosphere under reflux for 15 minutes. The mixture was then evaporated in vacuo to dryness; chromatography over silica gel afforded 14 mg of the title compound (18% theoretical yield).

reactant | 4-nitrobenzyl 2-(4-allylsulphinylazetidin-2-on-1-yl)-3-phenoxy-3-thioxopropionate | 97 mg | C(C=C)S(=O)C1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=S)OC1=CC=CC=C1)=O | C22H20N2O7S2
reactant | triphenylphosphine | 52 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | 4-Nitrobenzyl 7-oxo-3-phenoxy-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 14 mg, 18% | O=C1CC2SC(=C(N12)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C19H14N2O6S
